US03962190
Preparation of Triphenyl Trimellitate
42 grams of commercially available trimellitic acid was mixed with 138 g. of PCl5 in 100 ml. trichlorobenzene. An exothermic reaction was observed. After completion of the reaction, most of the trichlorobenzene was removed by vacuum distillation. The remaining crude acid chloride was added dropwise with stirring to 65 grams of phenol in about 145 ml. of pyridine. The solution was stirred and cooled with an ice bath during the 10 minute addition period, and then stirred one hour without cooling. The mixture was then heated to 60°C. After being allowed to cool to room temperature, the mixture was poured onto ice having 170 ml. of concentrated HCl therein. An offwhite crystalline solid formed. This was collected by filtration, washed with 5-6 portions of water, and air dried. This product (triphenyl trimellitate) weighed 81 grams. Trichlorobenzene was still detectable in the product; it was therefore recrystallized from 275 ml. methyl ethyl ketone. The white, very fine, fibrous crystals were filtered and washed with two portions of cold methyl ethyl ketone. After air-drying overnight, the final yield of triphenyl trimellitate was 49.5 grams (M.p. 156.5°-157.5°C.)

reactant | trimellitic acid | C(C=1C(C(=O)O)=CC(C(=O)O)=CC1)(=O)O | C9H6O6
reactant | PCl5 | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | trichlorobenzene | ClC=1C(=C(C=CC1)Cl)Cl | C6H3Cl3
product | Triphenyl Trimellitate | C(C=1C(C(=O)OC2=CC=CC=C2)=CC(C(=O)OC2=CC=CC=C2)=CC1)(=O)OC1=CC=CC=C1 | C27H18O6
